US04521607
N-(3-Mercapto-2-mercaptomethylpropionyl)-N-(5,6-dimethoxy-1-indanyl)glycine (1 g) is dissolved in 20 ml of ethanol, and a 5% iodine solution in ethanol is added dropwise with ice cooling and stirring. When the color of iodine does not fade any more, the dropping is discontinued, the reaction mixture is poured into 100 ml of water and extracted with ethyl acetate, the extract is dried, and the solvent is then distilled off under reduced pressure. The residue is dissolved in ether, the insoluble substance is filtered off with a small amount of activated carbon, and ether is distilled off at room temperature under reduced pressure, to give 0.3 g of N-(5,6-dimethoxy-1-indanyl)-N-(1,2-dithiolane-4-carbonyl)glycine as a pale yellow viscous oil.

reactant | N-(3-Mercapto-2-mercaptomethylpropionyl)-N-(5,6-dimethoxy-1-indanyl)glycine | 1 g | SCC(C(=O)N(CC(=O)O)C1CCC2=CC(=C(C=C12)OC)OC)CS | C17H23NO5S2
reactant | iodine | II | I2
reactant | water | 100 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(5,6-dimethoxy-1-indanyl)-N-(1,2-dithiolane-4-carbonyl)glycine | 0.3 g | COC=1C=C2CCC(C2=CC1OC)N(CC(=O)O)C(=O)C1CSSC1 | C17H21NO5S2
